US06369086B1
N-[2-(2-Hydroxy-ethoxy)-ethyl]-N-methyl-4-[(7-oxo-6,7-dihydro-1-thia-3,6-diaza-as-indacen-8-ylidenemethyl)-amino]-benzenesulfonamide (Z-isomer)
To a solution of 3.3 g (31 mmol) of 2-(2-aminoethoxy)ethanol in 30 mL of MeOH was added 7.0 g (30 mmol) of N-acetylsulfanilyl chloride, followed by 3.3 g (33 mmol) of TEA. The reaction mixture was stirred for 30 min at rt and then acidified with 5 mL (60 mmol) of concentrated HCl and stirred at reflux for 75 min. After cooling, the mixture was diluted with 40 mL of water and made basic with solid NaHCO3. MeOH was removed on a rotary evaporator, and the residual aqueous solution was extracted with four 50-mL portions of EtOAc. The combined extracts were dried over Na2CO3, and the solvent was removed on a rotary evaporator to give 4-amino-N-(2-(2-hydroxyethoxy)ethyl)-benzenesulfonamide as a viscous oil (7.5 g, 96%): 1H NMR (DMSO-d6): δ2.77 (q, J=6.0 Hz, 2H), 3.30 (t, J=4.9 Hz, 2H), 3.31 (t, J=6.5 Hz, 2H), 3.41 (q, J=5.2 Hz, 2H), 4.54 (t, J=5.5 Hz, 1H), 5.89 (s, 2H), 6.57 (d, J=8.7 Hz, 2H), 7.10 (t, J=7.37 (d, J=8.6 Hz, 2H); ESI−MS m/s 259 (M−H)−. To a solution of 0.63 g (2.4 mmol) of 4-amino-N-(2-(2-hydroxyethoxy)ethyl)-benzenesulfonamide in 10 mL of THF was added 0.10 g (2.5 mmol) of 60% sodium hydride. The mixture was stirred for 1 h at rt, 1 mL of DMSO and ˜0.2 mL (˜3 mmol) of methyl iodide were added to the resulting suspension. The reaction mixture was stirred 2 h at rt and then poured into 15 mL of half saturated NaCl solution and extracted with 30 mL of EtOAc. The organic solution was dried with MgSO4 and concentrated on a rotary evaporator. The residue was chromatographed on silica gel with EtOAc to give 4-amino-N-(2-(2-hydroxyethoxy)ethyl)-N-methyl-benzenesulfonamide as an oil (0.43 g, 65%): 1H NMR (DMSO-d6): δ2.59 (s, 3H), 2.96 (t, J=5.9 Hz, 2H), 3.36 (t, J=5.2 Hz, 2H), 3.43 (t, J=5.2 Hz, 2H), 3.47 (t, J=5.9 Hz, 2H), 4.55 (t, J=5.4 Hz,1H), 5.99 (s, 2H), 6.59 (d, J=8.7 Hz, 2H), 7.34 (d, 8.8 Hz, 2H); APCI−MS m/z 297 (M+Na)+. The title compound was prepared from 4-amino-N-(2-(2-hydroxyethoxy)ethyl)-N-methyl-benzenesulfonamide and 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one according to Procedure J: mp 165° C.; 1H NMR (DMSO-d6): δ2.71 (s, 3H), 3.11 (t, J=5.6 Hz, 2H), 3.37 (t, J=5.0 Hz, 2H), 3.44 (dt, J=5.1, 5.0 Hz, 2H), 3.52 (t, J=5.6 Hz, 2H), 4.56 (br t, J=5.2 Hz, 1H), 7.10 (d, J=8.4 Hz, 1H), 7.61 (d, J=8.7 Hz, 2H), 7.75 (d, J=8.7 Hz, 2H), 7.81 (d, J=8.5 Hz, 1H), 8.06 (d, J=12.0 Hz, 1H), 9.25 (s, 1H), 10.91 (s, 1H), 11.16 (d, J=12.0 Hz, 1H); APCI−MS m/z 474 M−. Anal. Calcd for C21 H22N4O5S2.H2O: C, 51.21; H,4.91; N, 11.37. Found: C, 51.18; H, 4.88; N, 11.33.

reactant | 4-amino-N-(2-(2-hydroxyethoxy)ethyl)-N-methyl-benzenesulfonamide | NC1=CC=C(C=C1)S(=O)(=O)N(C)CCOCCO | C11H18N2O4S
reactant | 8-ethoxymethylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one | C(C)OC=C1C(NC2=CC=C3N=CSC3=C12)=O | C12H10N2O2S
product | N-[2-(2-Hydroxy-ethoxy)-ethyl]-N-methyl-4-[(7-oxo-6,7-dihydro-1-thia-3,6-diaza-as-indacen-8-ylidenemethyl)-amino]-benzenesulfonamide | OCCOCCN(S(=O)(=O)C1=CC=C(C=C1)NC=C1C(NC2=CC=C3N=CSC3=C12)=O)C | C21H22N4O5S2
